US08486967B2
a) 8-(6-Methylpyrimidin-4-yl)-1,4-dioxa-8-azaspiro[4.5]decane
A solution of 1,4-dioxa-8-azaspiro[4.5]decane (3.04 g, 2.72 mL, 21.2 mmol), 4-chloro-6-methylpyrimidine (3.00 g, 23.4 mmol) and N,N-diisopropylethylamine (4.12 g, 5.56 mL, 31.8 mmol) in dioxane (50 mL) was heated to 140° C. in the microwave for 40 minutes. The reaction mixture was concentrated, then directly purified by flash chromatography (silica gel, 70 g, 0% to 15% MeOH/NH4OH (9:1) in dichloromethane). The title compound was obtained as orange oil (4.64 g, 93%).

reactant | 1,4-dioxa-8-azaspiro[4.5]decane | 21.2 mmol, 2.72 mL, 3.04 g | O1CCOC12CCNCC2 | C7H13NO2
reactant | 4-chloro-6-methylpyrimidine | 23.4 mmol, 3.00 g | ClC1=NC=NC(=C1)C | C5H5ClN2
reactant | N,N-diisopropylethylamine | 31.8 mmol, 5.56 mL, 4.12 g | C(C)(C)N(C(C)C)CC | C8H19N
solvent | dioxane | 50 mL | O1CCOCC1 | C4H8O2
product | 8-(6-Methylpyrimidin-4-yl)-1,4-dioxa-8-azaspiro[4.5]decane | CC1=CC(=NC=N1)N1CCC2(OCCO2)CC1 | C12H17N3O2
